US09260408B2
[C] 3-Bromo-5-[(S)-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidin-1-ylmethyl]-pyridine
In analogy to the procedure described for the preparation of intermediates A-12 [B], (S)-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidine was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in presence of NaH to give the title compound as a yellow oil. MS: 353.1, 355.1 (M+H+).

reactant | (S)-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidine | FC(COC[C@H]1NCCC1)(F)F | C7H12F3NO
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 3-Bromo-5-[(S)-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidin-1-ylmethyl]-pyridine | BrC=1C=NC=C(C1)CN1[C@@H](CCC1)COCC(F)(F)F | C13H16BrF3N2O
